US07425551B2
(R)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-N′-(3,3,3-trifluoro-propyl)-malonamide
Using (S)—N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-malonamic acid and 3,3,3-trifluoropropylamine, the title compound was prepared in the same manner as described for example 1c. Colorless, viscous oil (72%). MS: m/e=572(M+H+).

reactant | (S)—N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-malonamic acid | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)O)(C)F)=O)C=CC=C3)C=CC=C2 | C27H25FN2O5
reactant | 3,3,3-trifluoropropylamine | FC(CCN)(F)F | C3H6F3N
product | (R)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-fluoro-2-methyl-N′-(3,3,3-trifluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)NCCC(F)(F)F)(C)F)=O)C=CC=C3)C=CC=C2 | C30H29F4N3O4
